US07060817B2
Preparation of n-butyl-N-n-propylsulfonamide
6.9 ml of n-propylamine (4.9 g, 84 mmol) and 11.6 ml of triethylamine (8.5 g, 84 mmol) were dissolved at room temperature in 85 ml of methylene chloride. Likewise at room temperature 10.9 ml of n-butanesulfonyl chloride (13.1 g, 84 mmol) were added dropwise to this solution over the course of 1 h. After 20 h of stirring the reaction mixture was washed twice with 50 ml of water. The organic phase was dried over magnesium sulphate, the methylene chloride was distilled off and the oily residue which remained was dried in vacuo. This gave 13.5 g of the target compound, whose constitution was verified by NMR spectroscopy.

reactant | n-propylamine | 84 mmol, 6.9 ml, 4.9 g | C(CC)N | C3H9N
reactant | triethylamine | 84 mmol, 11.6 ml, 8.5 g | C(C)N(CC)CC | C6H15N
reactant | n-butanesulfonyl chloride | 84 mmol, 10.9 ml, 13.1 g | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
solvent | methylene chloride | 85 ml | C(Cl)Cl | CH2Cl2
product | n-butyl-N-n-propylsulfonamide | C(CCC)S(=O)(=O)NCCC | C7H17NO2S
